US05155113
Preparation of 4-(3-benzyloxycarbonylpropanoyloxy)-2-pyridone
To a solution of 1.00 g of 4-hydroxy-2-pyridone and 2.00 g of 3-benzyloxycarbonylpropionic acid in 30 ml of dimethylformamide was added at room temperature 1.90 g of N,N'-dicyclohexylcarbodiimide with stirring and the mixture was stirred overnight. The crystals formed were filtered off and the filtrate was concentrated. The concentrate was dissolved in 50 ml of ethyl acetate and washed with 20 ml of water three times. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The concentrate was then subjected to silica gel column chromatography using as an eluent 2% methanol-chloroform, giving 0.62 g of the title compound in a yield of 23%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 3-benzyloxycarbonylpropionic acid | 2.00 g | C(C1=CC=CC=C1)OC(=O)CCC(=O)O | C11H12O4
reactant | N,N'-dicyclohexylcarbodiimide | 1.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(3-benzyloxycarbonylpropanoyloxy)-2-pyridone | 0.62 g, yield of 23% | C(C1=CC=CC=C1)OC(=O)CCC(=O)OC1=CC(NC=C1)=O | C16H15NO5
